US05106871
Then, 1.0 g of 2'-hydroxy-4,4'-bis(methoxymethoxy)-chalcone was dissolved in 7 ml of tetrahydrofuran, and a 5-15% hydrochloric acid/methanol reagent was added to the solution and the mixture was heated at 50° C. for 30 minutes to effect a reaction. After the reaction, the reaction mixture was neutralized with a saturated aqueous solution of sodium hydrogencarbonate and extracted with 300 ml of ethyl acetate, and the ethyl acetate layer was washed with water (100 ml×3 times), shaken with a saturated aqueous solution of sodium chloride (50 ml×2 times), dried with anhydrous sodium sulfate and filtered. The solvent was removed from the filtrate by distillation, and the obtained residue was subjected to the silica gel column chromatography using a mixed solvent of n-hexane and ethyl acetate to obtain 521 mg (yield=70%) of 2',4,4'-trihydroxychalcone in the form of a yellow grain.

reactant | 2'-hydroxy-4,4'-bis(methoxymethoxy)-chalcone | 1.0 g | OC1=C(C(C=CC2=CC=C(C=C2)OCOC)=O)C=CC(=C1)OCOC | C19H20O6
reactant | hydrochloric acid methanol | Cl.CO
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
product | 2',4,4'-trihydroxychalcone | 521 mg, yield=70% | OC1=C(C(C=CC2=CC=C(C=C2)O)=O)C=CC(=C1)O | C15H12O4
